US06482841B1
B) 4-(3-Cyanophenyl)-2,6-dimethyl pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester
A mixture of 10 g (0.025 mol) of 4-(3-cyanophenyl)-2,6-dimethyl 1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester, obtained as described in A), and 91 g (0.076 mol) of pyridinium chlorochromate adsorbed on alumina, was suspended on 250 ml of CH2Cl2, and the suspension was stirred at room temperature for 5 hours. The remaining solid was separated by filtration, and the organic solution was washed with water (3×150 ml), dried with anh. Na2SO4, and concentrated to dryness at reduced pressure. The product was obtained as an oil, which was purified by column chromatography (Silicagel, n-hexane:EtAcO, 8:2) with a yield of 78%.

reactant | 4-(3-cyanophenyl)-2,6-dimethyl 1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | 0.025 mol, 10 g | O1C(CCC1)COC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)C#N | C22H24N2O5
reactant | pyridinium chlorochromate | 0.076 mol, 91 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-Cyanophenyl)-2,6-dimethyl pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | yield of 78% | O1C(CCC1)COC(=O)C=1C(=C(C(=NC1C)C)C(=O)OC)C1=CC(=CC=C1)C#N | C22H22N2O5
